US08466284B2
Methyl 6-bromo-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate
Methyl 5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate (400 g, 1 eq) was dissolved in DMF (3 L) and stirred at 17-20° C. N-Bromosuccinimide (229.3 g, 1 eq) was dissolved in DMF (1 L), and added to the ester solution over 1 hour. Post-addition, the reaction was stirred at 17-20° C. for 10 hours. The reaction mixture was added to water (15 L) with stirring. The resulting slurry was stirred at 20-25° C. overnight. The title compound was collected by filtration. The cake was washed with water (1 L) and heptane (1 L) and then dried to constant weight at 40° C. to give 456 g (91%).

reactant | Methyl 5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 400 g, 1 eq | CC=1N(C(C(=NC1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F | C14H11F3N2O3
reactant | N-Bromosuccinimide | 229.3 g, 1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 15 L | O | H2O
solvent | DMF | 3 L | CN(C)C=O | C3H7NO
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | Methyl 6-bromo-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | BrC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H10BrF3N2O3
